US07842688B2
h) tert-Butyl 3-{4-bromo-3-[isobutyryl-(2-triisopropylsilanyloxyethyl)amino]benzyloxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The solution of 3.50 g of tert-butyl 3-(4-bromo-3-isobutyrylaminobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 25 ml of N,N-dimethylformamide is cooled to 0° C. with stirring and admixed with sodium hydride dispersion (60%). After 30 minutes, the mixture is admixed with 1.66 g of (2-iodoethoxy)triisopropylsilane and stirred at room temperature over 16 hours. The reaction mixture is admixed with cold 1N HCl (100 ml) and extracted with tert-butyl methyl ether (2×100 ml). The organic phases are washed successively with water (100 ml) and brine (100 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rt=7.60.

reactant | tert-butyl 3-(4-bromo-3-isobutyrylaminobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 3.50 g | BrC1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=C1)NC(C(C)C)=O | C38H49BrN2O7
reactant | sodium hydride | [H-].[Na+]
reactant | (2-iodoethoxy)triisopropylsilane | 1.66 g | ICCO[Si](C(C)C)(C(C)C)C(C)C | C11H25IOSi
reactant | HCl | 1N, 100 ml | Cl | ClH
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 3-{4-bromo-3-[isobutyryl-(2-triisopropylsilanyloxyethyl)amino]benzyloxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | BrC1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=C1)N(CCO[Si](C(C)C)(C(C)C)C(C)C)C(C(C)C)=O | C49H73BrN2O8Si
